US08030500B2
1-(2-Bromopyridin-4-yl)-4-fluoro-1-(3-fluoro-4-methoxy-5-methylphenyl)-1H-isoindol-3-amine
The title compound was synthesized as described in Example 24i starting from 5-bromo-1-fluoro-2-methoxy-3-methylbenzene (177 mg, 0.81 mmol) and (E)-N-((2-bromopyridin-4-yl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (300 mg, 0.73 mmol) to give the title compound which was used without further purification (330 mg, 99%). MS (ES+) m/z 444, 446 [M+1]+.

reactant | 5-bromo-1-fluoro-2-methoxy-3-methylbenzene | 0.81 mmol, 177 mg | BrC=1C=C(C(=C(C1)F)OC)C | C8H8BrFO
reactant | (E)-N-((2-bromopyridin-4-yl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 0.73 mmol, 300 mg | BrC1=NC=CC(=C1)/C(=N\S(=O)C(C)(C)C)/C1=C(C(=CC=C1)F)C#N | C17H15BrFN3OS
product | 1-(2-Bromopyridin-4-yl)-4-fluoro-1-(3-fluoro-4-methoxy-5-methylphenyl)-1H-isoindol-3-amine | BrC1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=C(C(=C1)C)OC)F | C21H16BrF2N3O
